US05478857
7-Carboxy-9-oxo-3-[3-(2-ethyl-5-hydroxy-4-phenylphenoxy)propoxy]-9H-xanthene-4-propanoic acid disodium salt monohydrate
A mixture of 2-benzyloxy-1-phenyl-5-ethyl-4-(3-chloro-1-propyloxy)benzene (749 mg, 1.97 mmoles), ethyl 7-carboethoxy-3-hydroxy-9-oxo-9H-xanthene-4-propanoate (729 mg, 1.97 mmoles), potassium carbonate (1.36 g, 9.85 mmoles) and potassium iodide (33 mg, 0.20 mmoles) was refluxed for 24 hours. Dimethylsulfoxide (2 ml) was added and heating continued for 24 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate, and washed once with water. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to reveal a tan solid. This material was dissolved in ethyl acetate (30 ml) and the resulting solution purged with nitrogen. To this solution was added 10% palladium on carbon (120 mg) and the resulting suspension hydrogenated at 1 atmosphere of pressure. The solution was filtered and concentrated in vacuo to provide a colorless oil. This material was dissolved in a solution of 1:1 methanol/tetrahydrofuran (30 ml) and treated with 5N sodium hydroxide solution (2 ml) at room temperature for 18 hours. The resulting solution was extracted once with diethyl ether and the aqueous layer acidified with 5N hydrochloric acid solution. The resulting precipitate was collected via suction filtration. This material was converted to the di-sodium salt and purified over HP-20 resin to provide 390 mg (56%) of the desired title product as a fluffy white solid: NMR (DMSO-d6) 12.65 (s, 1H, --OH), 8.65 (s, 1H), 8.28 (dd, J=8.5, 2.0 Hz, 1H), 8.01 (d, J=8.9 Hz, 1H), 7.50 (m, 3H), 7.29 (t, J=7.8 Hz, 2H), 7.17 (m, 2H), 6.93 (s, 1H), 6.89 (s, 1H), 4.26 (m, 4H), 3.12 (m, 2H), 2.47 (m, 2H), 2.23 (m, 2H), 1.10 (t, J=7.4 Hz, 3H); MS-FAB m/e 627 (24, p), 605 (40), 583 (24), 331 (24), 309 (100); IR (KBr, cm-1) 3419 (b), 2962, 1612, 1558, 1443, 1390, 1277, 1084. Analysis for C34H28O9Na2.H2O: Calc: C, 63.34; H, 4.69; Found: C, 63.36; H, 4.50.

reactant | 2-benzyloxy-1-phenyl-5-ethyl-4-(3-chloro-1-propyloxy)benzene | 1.97 mmoles, 749 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCCCCl)CC)C1=CC=CC=C1 | C24H25ClO2
reactant | ethyl 7-carboethoxy-3-hydroxy-9-oxo-9H-xanthene-4-propanoate | 1.97 mmoles, 729 mg | C(=O)(OCC)C1=CC=C2OC=3C(=C(C=CC3C(C2=C1)=O)O)CCC(=O)OCC | C21H20O7
reactant | potassium carbonate | 9.85 mmoles, 1.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.20 mmoles, 33 mg | [I-].[K+]
reactant | sodium hydroxide | 5N, 2 ml | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol tetrahydrofuran | 30 ml | CO.O1CCCC1
solvent | Dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 7-Carboxy-9-oxo-3-[3-(2-ethyl-5-hydroxy-4-phenylphenoxy)propoxy]-9H-xanthene-4-propanoic acid disodium salt monohydrate | 390 mg, 56% | O.[Na+].[Na+].C(=O)(O)C1=CC=C2OC=3C(=C(C=CC3C(C2=C1)=O)OCCCOC1=C(C=C(C(=C1)O)C1=CC=CC=C1)CC)CCC(=O)[O-].C(=O)(O)C1=CC=C2OC=3C(=C(C=CC3C(C2=C1)=O)OCCCOC1=C(C=C(C(=C1)O)C1=CC=CC=C1)CC)CCC(=O)[O-] | InChI=1S/2C34H30O9.2Na.H2O/c2*1-2-20-17-25(21-7-4-3-5-8-21)27(35)19-30(20)42-16-6-15-41-28-13-10-24-32(38)26-18-22(34(39)40)9-12-29(26)43-33(24)23(28)11-14-31(36)37;;;/h2*3-5,7-10,12-13,17-19,35H,2,6,11,14-16H2,1H3,(H,36,37)(H,39,40);;;1H2/q;;2*+1;/p-2
